US07071201B2
Example 90: Synthesis of 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6- aminomethylindoline
Under ice cooling, a solution of diethyl azodicarboxylate (4.6 g) in tetrahydrofuran (20 ml) was added dropwise into a solution of 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6-hydroxymethylindoline (7.9 g), triphenylphosphine (6.9 g) and phthalimide (3.9 g) in tetrahydrofuran (250 ml) and the resultant mixture was stirred at room temperature for 3 hr. After concentrating under reduced pressure, the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system). Then hydrazine hydrate (3.6 g) and ethanol (150 ml) were added thereto followed by healing under reflux for 2 hr. After ice cooling, the resulting crystalline precipitates were filtered off and the filtrate was concentrated under reduced pressure to give the title compound (8.3 g).

reactant | diethyl azodicarboxylate | 4.6 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6-hydroxymethylindoline | 7.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC2=CC=C(C=C12)CO | C19H28N2O3
reactant | triphenylphosphine | 6.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 3.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6- aminomethylindoline | 8.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC2=CC=C(C=C12)CN | C19H29N3O2
